US07642264B2
3-Bromo-N-methoxy-benzenesulfonamide
To a solution of commercially available methoxyamine hydrochloride (1.96 g, 23.4 mmol) and 2 M Na2CO3-solution (20 mL, 40 mmol) in THF (100 mL) at 0° C. was added dropwise added commercially available 3-bromobenzenesulfonyl chloride (2.5 g, 9.8 mmol) and the mixture was stirred at 23° C. for 18 h. The reaction is diluted with water, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated to give a light brown solid, which was refluxed with 1 M NaOH (10 mL) in dioxane (10 mL) for 30 min to cleave disulfonylated product. Cooled to rt, diluted with water, extracted with EtOAc, washed organic layer with brine and dried over Na2SO4. Removal of the solvent in vacuum left a light brown solid, which was purified by trituration with heptane/diethyl ether gave the title compound as a light yellow solid (1.30 g, 50%). MS (ISN) 264.0 [(M−H)−] and 266.0 [(M+2−H)−].

reactant | methoxyamine hydrochloride | 23.4 mmol, 1.96 g | Cl.CON
reactant | Na2CO3 | 40 mmol, 2 M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-bromobenzenesulfonyl chloride | 9.8 mmol, 2.5 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | NaOH | 1 M, 10 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-Bromo-N-methoxy-benzenesulfonamide | 1.30 g, 50% | BrC=1C=C(C=CC1)S(=O)(=O)NOC | C7H8BrNO3S
